US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethoxymethyl-3-methylpiperidine
Prepared according to the procedure described for 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine except that ethyl iodide was used instead of methyl iodide.

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COC | C17H25NO3
reactant | ethyl iodide | C(C)I | C2H5I
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethoxymethyl-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COCC | C18H27NO3
